US04499089
One dissolves 15.0 g 2-ethylthio-5-oxo-4,4-diphenyl-2-pyrroline-3-carbonitrile in 500 ml abs. dioxan, adds 1.4 g sodium hydride (80%) in white oil) thereto and boils under reflux for one hour. One allows to cool somewhat, adds 100.0 g 1,3-dibromopropane thereto and further boils for 48 hours. Thereafter, the reaction mixture is filtered, the solvent and the excess dibromopropane are distilled off under water pump vacuum and the residue is triturated with diisopropyl ether. One obtains 14.0 g 1-(3-bromopropyl)-2-ethylthio-5-oxo-4,4-diphenyl-2-pyrroline-3-carbonitrile of mp 97° C.

reactant | 2-ethylthio-5-oxo-4,4-diphenyl-2-pyrroline-3-carbonitrile | 15.0 g | C(C)SC=1NC(C(C1C#N)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H16N2OS
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 100.0 g | BrCCCBr | C3H6Br2
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 1-(3-bromopropyl)-2-ethylthio-5-oxo-4,4-diphenyl-2-pyrroline-3-carbonitrile | 14.0 g | BrCCCN1C(=C(C(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C#N)SCC | C22H21BrN2OS
